US07049323B2
{1-[2-Amino-3-(4-chloro-phenyl)-propionyl]-azetidin-3-yl}-cyclohexylamine was acylated with isoxazole-5-carbonyl chloride in a manner similar to that described for 6 above and then the Boc protecting group removed by treatment with a solution of HCl in dioxane and MeOH to furnish isoxazole-5-carboxylic acid {1-[2-amino-3-(4-chloro-phenyl)-propionyl]-azetidin-3-yl}-cyclohexyl-amide. 1H NMR (400 MHz, CDCl3) δ 8.33–8.29 (m, 1H), 7.32–7.12 (m, 4H), 6.77–6.71 (m, 1H), 4.54 (br, 2H), 4.34–3.80 (m, 2H), 3.60–3.40 (m, 2H), 3.20–2.70 (m, 2H), 2.60–2.05 (m, 2H), 1.86–1.60 (m, 4H), 1.60–1.00 (m, 4H), 0.90–0.78 (m, 3H); MS Calcd for C22H27ClN4O3 [M+H], 431. Found, 431.

reactant | {1-[2-Amino-3-(4-chloro-phenyl)-propionyl]-azetidin-3-yl}-cyclohexylamine | NC(C(=O)N1CC(C1)NC1CCCCC1)CC1=CC=C(C=C1)Cl | C18H26ClN3O
reactant | isoxazole-5-carbonyl chloride | O1N=CC=C1C(=O)Cl | C4H2ClNO2
product | isoxazole-5-carboxylic acid {1-[2-amino-3-(4-chloro-phenyl)-propionyl]-azetidin-3-yl}-cyclohexyl-amide | NC(C(=O)N1CC(C1)N(C(=O)C1=CC=NO1)C1CCCCC1)CC1=CC=C(C=C1)Cl | C22H27ClN4O3
